US06008379
2-fluoro resorcinol (prepared according to Patrick, T. B., et al., J. Org. Chem (1986), 51, 3242-4) (12.8 g, 100 mmol), potassium carbonate (42 g, 0.3 mol), and methyl iodide (25 mL, 0.4 mol) were mixed with acetone (300 mL) and refluxed for 6 hrs. The reaction was poured into ice-water (500 mL) and extracted in ethyl acetate (500 mL). The ethyl acetate was washed with water (200 mL×2), and brine (200 mL×1), dried over sodium sulfate, filtered, and solvent was removed to yield 14.2 grams (91%) of 1,3-dimethoxy 2-fluoro benzene. This fluoro-benzene intermediate (23.19 g, 148.5 mmoL), N-bromo succinimide (26.52 g, 149 mmol), and 300 uL of 70% aqueous perchloric acid (Aldrich Chemical, 3.4 mmoL) were mixed in carbon tetrachloride (100 mL) and stirred at room temperature for 1 hour. The mixture was filtered, and solvent was removed to obtain a yellow oil. The oil was subjected to silica-gel chromatography (silica gel, hexane mobile phase) to yield 33.28 grams (95%) of the 1,3-dimethoxy-4-bromo-2-fluorobenzene 12 compound as a yellow oil.

reactant | 2-fluoro resorcinol | 100 mmol, 12.8 g | FC1=C(O)C=CC=C1O | C6H5FO2
reactant | potassium carbonate | 0.3 mol, 42 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.4 mol, 25 mL | CI | CH3I
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 1,3-dimethoxy 2-fluoro benzene | 14.2 grams, 91% | COC1=C(C(=CC=C1)OC)F | C8H9FO2
